US04732998
2-(p-Chlorophenoxy)-ethyl formate
p-Chlorophenol (112 g) was added to a solution of sodium hydroxide (40 g) in water (100 ml). The mixture was heated to reflux, and 2-chloroethanol (80 g) was added dropwise with stirring. After cooling to room temperature, the mixture was extracted with ether. The organic phase was dried and evaporated to leave a residue which was refluxed with formic acid (150 ml) for 1 hour followed by distillation in vacuo. The product had boiling point 138°-40° C./1 mm Hg.

reactant | p-Chlorophenol | 112 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | 2-chloroethanol | 80 g | ClCCO | C2H5ClO
reactant | formic acid | 150 ml | C(=O)O | CH2O2
solvent | water | 100 ml | O | H2O
product | 2-(p-Chlorophenoxy)-ethyl formate | C(=O)OCCOC1=CC=C(C=C1)Cl | C9H9ClO3
